US07501447B2
Step B: N-(4-Fluoro-3-nitrophenyl)-2,2-dimethylpropanamide
4-Fluoro-3-nitroaniline (500 mg, 3.20 mmol) and DMAP (586 mg, 4.80 mmol) were dissolved in 25 mL of DCM. Trimethylacetyl chloride (0.587 mL, 4.80 mmol) was added dropwise and the solution was stirred at rt for 3 h. The solution was washed with 5% KHSO4 solution, saturated NaHCO3 solution, brine and dried over anhydrous MgSO4. The crude product was purified by flash chromatography using 35% EtOAc in hexanes as eluent on silica gel to produce the desired title compound. Yield: 713 mg (93%). 1H NMR (400 MHz, CHLOROFORM-D:) δ 1.34 (s, 9H), 7.25 (dd, J=10.25, 9.08 Hz, 1H), 7.50 (br.s, 1H), 7.88 (ddd, J=9.08, 3.71, 2.83 Hz, 1H), 8.26 (dd, J=6.44, 2.73 Hz, 1H).

reactant | 4-Fluoro-3-nitroaniline | 3.20 mmol, 500 mg | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | Trimethylacetyl chloride | 4.80 mmol, 0.587 mL | CC(C(=O)Cl)(C)C | C5H9ClO
catalyst | DMAP | 4.80 mmol, 586 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Fluoro-3-nitrophenyl)-2,2-dimethylpropanamide | FC1=C(C=C(C=C1)NC(C(C)(C)C)=O)[N+](=O)[O-] | C11H13FN2O3
